US04235619
An enaminoketone was formed from 4.86 g. of N,N-diethyl-3-trifluoromethylstyrylamine and 2.44 g. of ethoxyacetyl chloride in the presence of 1.6 g. of pyridine. The desired enaminoketone, 1-diethylamino-4-ethoxy-2-(3-trifluoromethylphenyl)-1-buten-3-one was formed. To the unpurified enaminoketone in 75 ml. of anhydrous tetrahydrofuran at 0° C. was added 3.2 g. of sodium methoxide, and the mixture was stirred for 15 minutes. To this mixture was added 4.4 g. of ethyl formate dropwise. The mixture was stirred for three hours, and 50 ml. of a 40 percent methylamine solution in water was added followed by 5 g. of methylamine hydrochloride. The reaction mixture was stirred overnight at ambient temperature, and was then evaporated to dryness under vacuum. The residue was taken up in dichloromethane, and the solution was washed with water and dried over magnesium sulfate. The dry solution was filtered, and evaporated under vacuum to obtain a dark residue which was triturated in cold diisopropyl ether. The solids were removed by filtration and recrystallized from diisopropyl etherdichloromethane to obtain 1.6 g. of 3-ethoxy-1-methyl-5-(3-trifluoromethylthylphenyl)-4(1H)-pyridone, m.p. 131°-133° C.

reactant | N,N-diethyl-3-trifluoromethylstyrylamine | C(C)N(CC)C=CC1=CC(=CC=C1)C(F)(F)F | C13H16F3N
reactant | ethoxyacetyl chloride | C(C)OCC(=O)Cl | C4H7ClO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-diethylamino-4-ethoxy-2-(3-trifluoromethylphenyl)-1-buten-3-one | C(C)N(C=C(C(COCC)=O)C1=CC(=CC=C1)C(F)(F)F)CC | C17H22F3NO2
